US07589204B2
2(2-bromoethyl)-1,3-dioxolane (14.09 ml, 120.1 mmole) was added to a solution of 1-indanecarbonitrile (15.63 g, 109.2 mmole) in 100 ml of THF and cooled to 0° C. After the dropwise addition of 1M LHMDS (120 ml) the solution was stirred at 0° C. for 20 min then at room temperature for 20 min. After the removal of solvent the residue was flashed of silica using 15% EtOAc and Hexanes to afford 1-[2-(1,3-dioxolan-2-yl)ethyl]-1-indanecarbonitrile as a thick oil.

reactant | 2(2-bromoethyl)-1,3-dioxolane | 120.1 mmole, 14.09 ml | BrCCC1OCCO1 | C5H9BrO2
reactant | 1-indanecarbonitrile | 109.2 mmole, 15.63 g | C1(CCC2=CC=CC=C12)C#N | C10H9N
reactant | LHMDS | 1M, 120 ml | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 1-[2-(1,3-dioxolan-2-yl)ethyl]-1-indanecarbonitrile | O1C(OCC1)CCC1(CCC2=CC=CC=C12)C#N | C15H17NO2
